US06916822B2
(a) 1-[2-(4-Diethylcarbamoylbenzyl)phenoxy]-2,3-dihydroxypropane
The 2-(4-diethylcarbamoylbenzyl)phenol (355 mg) obtained in Reference Example 1(d) was dissolved in a mixed solution of dioxane (3.6 ml) and water (3.6 ml), added with 1 N aqueous sodium hydroxide (63 μl) and glycidol (0.12 ml) and stirred at 90° C. for 18 hours. The reaction mixture was added with water (30 ml) and extracted twice with dichloromethane (30 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate) to obtain 263 mg of the title compound. Yield: 59%.

reactant | 2-(4-diethylcarbamoylbenzyl)phenol | 355 mg | C(C)N(C(=O)C1=CC=C(CC2=C(C=CC=C2)O)C=C1)CC | C18H21NO2
reactant | sodium hydroxide | 1 N, 63 μl | [OH-].[Na+]
reactant | glycidol | 0.12 ml | C1C(O1)CO | C3H6O2
solvent | dioxane | 3.6 ml | O1CCOCC1 | C4H8O2
solvent | water | 3.6 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 1-[2-(4-Diethylcarbamoylbenzyl)phenoxy]-2,3-dihydroxypropane | 263 mg, Yield: 59% | C(C)N(C(=O)C1=CC=C(CC2=C(OCC(CO)O)C=CC=C2)C=C1)CC | C21H27NO4
